US08334236B2
(2) Production of methyl 2-(5-methyl-3-isoxazolyl)aminonicotinate
6.7 g (24 mmol) of methyl 2-(trifluoromethylsulfonyloxy)nicotinate and 3.0 g (31 mmol) of 3-amino-5-methylisoxazole were dissolved in toluene (100 mL), and 13.1 g (40 mmol) of cesium carbonate, 1.5 g (1.6 mmol) of tris(dibenzylideneacetone)dipalladium(0), and 1.9 g (3.4 mmol) of 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene were added to the solution. The resulting mixture was heated and stirred for one hour at 80° C. The reaction mixture was cooled, and then the solvent was distilled off. The residue was purified by column chromatography (ethyl acetate:n-hexane=1:4), and thus 4.3 g of the title compound was obtained as an orange-colored viscous product (yield: 78%).

reactant | methyl 2-(trifluoromethylsulfonyloxy)nicotinate | 24 mmol, 6.7 g | FC(S(=O)(=O)OC1=C(C(=O)OC)C=CC=N1)(F)F | C8H6F3NO5S
reactant | 3-amino-5-methylisoxazole | 31 mmol, 3.0 g | NC1=NOC(=C1)C | C4H6N2O
reactant | cesium carbonate | 40 mmol, 13.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 3.4 mmol, 1.9 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.6 mmol, 1.5 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 2-(5-methyl-3-isoxazolyl)aminonicotinate | 4.3 g | CC1=CC(=NO1)NC1=C(C(=O)OC)C=CC=N1 | C11H11N3O3
